US04198428
4-Chloro-thiobenzoic acid thiocyanomethyl ester
16 g (0.15 mol) of chloromethyl thiocyanate were added dropwise to 31.5 g (0.15 mol) of the K salt of 4-chlorothiobenzoic acid in 200 ml of methanol at 0°-10° and the mixture was then first warmed to room temperature and then to 50°-60°, until the reaction had taken place. The cooled mixture was poured onto 1 liter of cold water, whilst stirring vigorously, and the precipitate was filtered off and dried. Light pink-coloured crystals.

reactant | chloromethyl thiocyanate | 0.15 mol, 16 g | ClCSC#N | C2H2ClNS
reactant | 4-chlorothiobenzoic acid | ClC1=CC=C(C(=S)O)C=C1 | C7H5ClOS
reactant | water | 1 liter | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 4-Chloro-thiobenzoic acid thiocyanomethyl ester | S(C#N)COC(C1=CC=C(C=C1)Cl)=S | C9H6ClNOS2
